US07037925B2
Methyl 4-{[3-(aminocarbonyl)-6-methoxy-4-(2-toluidino)-7-quinolinyl]oxy}butanoate
A mixture of 7-hydroxy-6-methoxy-4-(2-toluidino)-3-quinolinecarboxamide (0.026 g, 0.080 mmol), DMSO (2.5 ml), K2CO3 (0.017 g, 0.12 mmol), and methyl 4-chlorobutanoate (0.011 g, 0.080 mmol) was refluxed for 2 h. The reactionmixture was filtered, evaporated and chromatographed on silica furnishing the title compound.

reactant | 7-hydroxy-6-methoxy-4-(2-toluidino)-3-quinolinecarboxamide | 0.080 mmol, 0.026 g | OC1=C(C=C2C(=C(C=NC2=C1)C(=O)N)NC=1C(=CC=CC1)C)OC | C18H17N3O3
reactant | K2CO3 | 0.12 mmol, 0.017 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-chlorobutanoate | 0.080 mmol, 0.011 g | ClCCCC(=O)OC | C5H9ClO2
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
product | Methyl 4-{[3-(aminocarbonyl)-6-methoxy-4-(2-toluidino)-7-quinolinyl]oxy}butanoate | NC(=O)C=1C=NC2=CC(=C(C=C2C1NC=1C(=CC=CC1)C)OC)OCCCC(=O)OC | C23H25N3O5
